US08609731B2
N-[(S)-6-(1-Amino-1-methylethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
A mixture, cooled to 0° C., of N-[(S)-6-(1-hydroxy-1-methylethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide (0.30 g), glacial acetic acid (1 ml) and trimethylsilyl cyanide (145 mg) was admixed dropwise with sulfuric acid (1.2 ml; 96%). The cooling bath was removed and the mixture was stirred for another 12 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with sodium chloride solution, dried over sodium sulfate and concentrated. The residue was taken up in 1,4-dioxane (20 ml) and boiled at reflux with dilute hydrochloric acid for 30 minutes. The reaction mixture was washed with ethyl acetate and basified with concentrated sodium hydroxide solution. Extraction with dichloromethane gave rise to an organic phase which was dried over sodium sulfate and concentrated. (Alternatively, the hydrolysis of the intermediate formamide can also be achieved by boiling with sodium hydroxide solution.) The product was thus obtained with the molecular weight of 408.55 (C25H32N2O3); MS (ESI): 409 (M+H+).

reactant | N-[(S)-6-(1-hydroxy-1-methylethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | 0.30 g | OC(C)(C)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C25H31NO4
reactant | trimethylsilyl cyanide | 145 mg | C[Si](C)(C)C#N | C4H9NSi
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-[(S)-6-(1-Amino-1-methylethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | NC(C)(C)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C25H32N2O3
